US07250410B2
1-benzyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbc.
By replacing 5-(4-bromophenyl)-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIaf) in example IIba by 7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIaa), and MeI by benzyl bromide, and proceeding in the same manner, the abovenamed product is obtained. Yield: 64%. M: 148–149° C. 1H-NMR (CDCl3, 200 MHz): d 3.67 (s, 3H, OCH3), 3.83 (s, 3H, OCH3), 4.38 (AB system, ? d=0.96, JAB=10.0 2H, CH2), 5.15 (AB system, ? d=0.70, JAB=15.4, 2H, —NCH2), 6.56 (s, 1H Ar), 6.81 (s, 1H Ar), 7.07–7.46 (m, 10H Ar).

reactant | 7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | COC=1C(=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1)OC | C17H16N2O3
reactant | MeI | CI | CH3I
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-benzyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 64% | C(C1=CC=CC=C1)N1C(CN=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)=O | C24H22N2O3
